.SubCkt GRM43DR61E106KA12 _net1 _net2
.param K01=9.8511e-06
.param M01=5.0000e+07
.param L02=2.5119e-12
.param M03=1.8124e-03
.param K04=8.7390e-04
.param M04=5.3028e+00
.param K05=9.0285e-04
.param M05=5.2028e-01
.param K06=8.3192e-04
.param M06=6.9823e-02
.param K07=1.0895e-03
.param M07=5.9533e-03
.param K08=1.0370e-03
.param M08=1.5690e-03
.param L09=4.3636e-11
.param M09=2.8628e-02
.param L10=4.7884e-10
.param M10=1.8523e-02
.param K11=2.4125e-05
.param L11=1.2352e-10
.param M11=9.6994e-03
.param K12=1.5859e-05
.param L12=7.8250e-11
.param M12=8.7857e-03
.param K13=9.6700e-12
.param L13=2.1322e-10
.param M13=1.6554e+01
.param K14=2.8413e-12
.param L14=2.7729e-10
.param M14=9.5357e+01
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
L09 _net0809 _net0910 'L09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
C11 _net1011 _net1112 'K11'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net2 'K14'
L14 _net1314 _net2 'L14'
R14 _net1314 _net2 'M14'
.ends 

.SubCkt GRM43ER71H225KA01 _net1 _net2
.param K01=2.1756e-06
.param M01=2.2727e+08
.param L02=7.9621e-12
.param M03=4.0363e-03
.param K04=3.5375e-04
.param M04=1.1736e+01
.param K05=2.9764e-04
.param M05=1.4843e+00
.param K06=2.4841e-04
.param M06=2.1943e-01
.param K07=4.3324e-04
.param M07=1.6502e-02
.param K08=5.3119e-04
.param M08=7.5588e-03
.param K09=2.0455e-04
.param M09=3.7768e-03
.param L10=3.2417e-10
.param M10=3.3624e-02
.param L11=2.0434e-11
.param M11=2.6514e-02
.param K12=4.0008e-06
.param L12=1.3751e-10
.param M12=2.2308e-02
.param K13=2.3012e-06
.param L13=9.2821e-11
.param M13=1.7232e-02
.param K14=1.0832e-11
.param L14=1.8535e-10
.param M14=1.6552e+01
.param K15=2.8624e-12
.param L15=3.2481e-10
.param M15=7.0791e+01
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net1415 'K14'
L14 _net1314 _net1415 'L14'
R14 _net1314 _net1415 'M14'
C15 _net1415 _net2 'K15'
L15 _net1415 _net2 'L15'
R15 _net1415 _net2 'M15'
.ends 

.SubCkt GRM43ER72A225KA01 _net1 _net2
.param K01=2.1756e-06
.param M01=2.2727e+08
.param L02=7.9621e-12
.param M03=4.0363e-03
.param K04=3.5375e-04
.param M04=1.1736e+01
.param K05=2.9764e-04
.param M05=1.4843e+00
.param K06=2.4841e-04
.param M06=2.1943e-01
.param K07=4.3324e-04
.param M07=1.6502e-02
.param K08=5.3119e-04
.param M08=7.5588e-03
.param K09=2.0455e-04
.param M09=3.7768e-03
.param L10=3.2417e-10
.param M10=3.3624e-02
.param L11=2.0434e-11
.param M11=2.6514e-02
.param K12=4.0008e-06
.param L12=1.3751e-10
.param M12=2.2308e-02
.param K13=2.3012e-06
.param L13=9.2821e-11
.param M13=1.7232e-02
.param K14=1.0832e-11
.param L14=1.8535e-10
.param M14=1.6552e+01
.param K15=2.8624e-12
.param L15=3.2481e-10
.param M15=7.0791e+01
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net1415 'K14'
L14 _net1314 _net1415 'L14'
R14 _net1314 _net1415 'M14'
C15 _net1415 _net2 'K15'
L15 _net1415 _net2 'L15'
R15 _net1415 _net2 'M15'
.ends 

.SubCkt GRM43ER71E475KA01 _net1 _net2
.param K01=4.5717e-06
.param M01=1.0638e+08
.param L02=1.0000e-12
.param M03=3.2280e-03
.param K04=4.4925e-04
.param M04=1.2690e+01
.param K05=6.3413e-04
.param M05=8.1854e-01
.param K06=5.7357e-04
.param M06=1.1028e-01
.param K07=7.4894e-04
.param M07=1.3798e-02
.param K08=4.3949e-04
.param M08=3.4850e-03
.param L09=3.4260e-10
.param M09=2.1503e-02
.param L10=1.3689e-11
.param M10=4.5368e-03
.param K11=1.0160e-05
.param L11=1.1665e-10
.param M11=1.1944e-02
.param K12=5.7341e-06
.param L12=8.0084e-11
.param M12=1.0264e-02
.param K13=1.1772e-11
.param L13=2.4407e-10
.param M13=1.8291e+01
.param K14=3.7234e-12
.param L14=3.8862e-10
.param M14=2.5781e+01
.param K15=4.9717e-12
.param L15=7.1987e-11
.param M15=6.8166e+00
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
L09 _net0809 _net0910 'L09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
C11 _net1011 _net1112 'K11'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net1415 'K14'
L14 _net1314 _net1415 'L14'
R14 _net1314 _net1415 'M14'
C15 _net1415 _net2 'K15'
L15 _net1415 _net2 'L15'
R15 _net1415 _net2 'M15'
.ends 

.SubCkt GRM43ER61H475KA88 _net1 _net2
.param K01=4.5717e-06
.param M01=1.0638e+08
.param L02=1.0000e-12
.param M03=3.2280e-03
.param K04=4.4925e-04
.param M04=1.2690e+01
.param K05=6.3413e-04
.param M05=8.1854e-01
.param K06=5.7357e-04
.param M06=1.1028e-01
.param K07=7.4894e-04
.param M07=1.3798e-02
.param K08=4.3949e-04
.param M08=3.4850e-03
.param L09=3.4260e-10
.param M09=2.1503e-02
.param L10=1.3689e-11
.param M10=4.5368e-03
.param K11=1.0160e-05
.param L11=1.1665e-10
.param M11=1.1944e-02
.param K12=5.7341e-06
.param L12=8.0084e-11
.param M12=1.0264e-02
.param K13=1.1772e-11
.param L13=2.4407e-10
.param M13=1.8291e+01
.param K14=3.7234e-12
.param L14=3.8862e-10
.param M14=2.5781e+01
.param K15=4.9717e-12
.param L15=7.1987e-11
.param M15=6.8166e+00
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
L09 _net0809 _net0910 'L09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
C11 _net1011 _net1112 'K11'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net1415 'K14'
L14 _net1314 _net1415 'L14'
R14 _net1314 _net1415 'M14'
C15 _net1415 _net2 'K15'
L15 _net1415 _net2 'L15'
R15 _net1415 _net2 'M15'
.ends 

.SubCkt GRM43ER61C226ME01 _net1 _net2
.param K01=2.2105e-05
.param M01=2.2727e+06
.param L02=7.9621e-12
.param M03=1.5777e-03
.param K04=2.4534e-03
.param M04=1.4112e+00
.param K05=2.2683e-03
.param M05=1.5471e-01
.param K06=2.9726e-03
.param M06=1.7099e-02
.param K07=1.2068e-02
.param M07=1.8283e-03
.param K08=2.7115e-03
.param M08=1.7209e-03
.param L09=3.2479e-11
.param M09=2.3429e-02
.param L10=5.1638e-10
.param M10=1.2222e-02
.param L11=5.3017e-11
.param M11=7.6754e-03
.param K12=6.1136e-05
.param L12=1.2609e-10
.param M12=4.7919e-03
.param K13=3.3167e-05
.param L13=1.0583e-10
.param M13=5.0021e-03
.param K14=2.8971e-11
.param L14=1.1902e-10
.param M14=6.4249e+00
.param K15=2.1885e-12
.param L15=4.0294e-10
.param M15=9.9513e+01
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
L09 _net0809 _net0910 'L09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net1415 'K14'
L14 _net1314 _net1415 'L14'
R14 _net1314 _net1415 'M14'
C15 _net1415 _net2 'K15'
L15 _net1415 _net2 'L15'
R15 _net1415 _net2 'M15'
.ends 
